US06613782B2
2-{[1-(2-Mercapto-4-methyl-pentanoylamino)-cyclopentanecarbonyl]-amino}-3-(4-naphthalen-1-yl-biphenyl-4-yl)-propionic acid (from naphthalen-1-yl-boronic acid);
2-{[1-(2-mercapto-4-methyl-pentanoylamino)-cyclopentanecarbonyl]-amino}-3-(4′-methylthio-biphenyl-4-yl)-propionic acid (from 4-methylthiophenyl-boronic acid; mp 187-189° C.

reactant | 2-{[1-(2-mercapto-4-methyl-pentanoylamino)-cyclopentanecarbonyl]-amino}-3-(4′-methylthio-biphenyl-4-yl)-propionic acid | SC(C(=O)NC1(CCCC1)C(=O)NC(C(=O)O)CC1=CC=C(C=C1)C1=CC=C(C=C1)SC)CC(C)C | C28H36N2O4S2
reactant | 4-methylthiophenyl-boronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | 2-{[1-(2-Mercapto-4-methyl-pentanoylamino)-cyclopentanecarbonyl]-amino}-3-(4-naphthalen-1-yl-biphenyl-4-yl)-propionic acid | SC(C(=O)NC1(CCCC1)C(=O)NC(C(=O)O)CC1(CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)CC(C)C | C37H42N2O4S
